US07902252B2
2.81. Synthesis of 4-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (55)
The title compound was synthesized from methyl 4-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.045 g, 0.15 mmol) and lithium hydroxide (0.063 g, 1.5 mmol in 2 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane followed by reverse phase chromatography from MeOH and water (0.1% formic acid) to afford the title compound: 3.7 mg, 8.4% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.03-2.16 (m, 1H) 2.46-2.60 (m, 1H) 2.60-2.73 (m, 2H) 2.79 (dd, J=7.35, 2.03 Hz, 2H) 3.26 (m, 1H) 6.32 (s, 1H) 6.91 (dd, J=9.57, 1.51 Hz, 1H) 7.02 (dt, J=8.63, 2.13 Hz, 1H) 7.06 (s, 1H); 19F NMR δ ppm −114.32 (t, J=0.8 Hz); LCMS-MS (ESI−) 292.0 (M−H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.15 mmol, 0.045 g | ClC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=C(C1)F | C16H15ClFNO2
reactant | lithium hydroxide | 1.5 mmol, 2 mL, 0.063 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | ClC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=C(C1)F | C15H13ClFNO2
